data/pmechdb/original/mc_train_fold0/raw/train.txt
COC1[CH:20](C(C2C(O1)COC(O2)C3=CC=CC=C3)I)[O:21][P+:22](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6.[I-:10].C1=CC=C(C=C1)P(=O)(C2=CC=CC=C2)C3=CC=CC=C3.C1=C[NH+]=CN1>>COC1[CH:20](C(C2C(O1)COC(O2)C3=CC=CC=C3)I)[I:10].C1=CC=C(C=C1)[P:22](=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(=O)(C2=CC=CC=C2)C3=CC=CC=C3.C1=C[NH+]=CN1 10=20;20,21=21,22
C1=CC=C(C=C1)[P:10](C2=CC=CC=C2)(C3=CC=CC=C3)(OCCOC4=CC=C(C=C4)OCCBr)[Br:11].C1=CC=C(C=C1)P(=O)(C2=CC=CC=C2)C3=CC=CC=C3.C(Br)(Br)Br>>C1=CC=C(C=C1)[P+:10](C2=CC=CC=C2)(C3=CC=CC=C3)OCCOC4=CC=C(C=C4)OCCBr.[Br-:11].C1=CC=C(C=C1)P(=O)(C2=CC=CC=C2)C3=CC=CC=C3.C(Br)(Br)Br 10,11=11
[H:20][N+:21]1=C(C=CNC1=N)N.[C-:10]#N.O>>[H:20][C:10]#N.C1=CNC(=N)[N:21]=C1N.O 10=20;20,21=21
C[OH+:21][CH2:20][O:10]C(CCOCC1=CC=CC=C1)CC2=C(C3=CC=CC(=C3C(=C2)OC)OC)OC.[B-](OC)(F)(F)F.CCOCC>>C[OH:21].COC1=C2C(=CC=C1)C(=C(C=C2OC)CC(CCOCC3=CC=CC=C3)[O+:10]=[CH2:20])OC.[B-](OC)(F)(F)F.CCOCC 10=20;20,21=21
CN1CCO[C:20]1=[O:21].[Cl-:10]>>CN1CCO[C:20]1([O-:21])[Cl:10] 10=20;20,21=21
CS(=O)(=O)C1=CC=C(C=C1)C2=NC=C(N=C2)[NH2:10].[N:20]#[O+:21].O.[O-]S(=O)(=O)[O-].[Na+]>>CS(=O)(=O)C1=CC=C(C=C1)C2=NC=C(N=C2)[NH2+:10][N:20]=[O:21].O.[O-]S(=O)(=O)[O-].[Na+] 10=20;20,21=21
[H:10][B-:11](CC)(CC)CC.[Li][O+:21]=[C:20](CCC)OCCC>>[H:10][C:20](CCC)([O:21][Li])OCCC.[B:11](CC)(CC)CC 10,11=10,20;20,21=21
[H:20][C:21]1(SCCCS1)[Si](C)(C)C.[Li:11][CH2:10]CCC>>[H:20][CH2:10]CCC.[Li+:11].C[Si](C)(C)[C-:21]1SCCCS1 10,11=10,20;20,21=21
CC(CCC=C(C)C=O)C[CH:20]=[O:21].C[NH:10]C1=CC=CC=C1>>CC(CCC=C(C)C=O)C[CH:20]([NH+:10](C)C1=CC=CC=C1)[O-:21] 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=C(O1)C#N)Br.[Br-:10]>>[H:20][Br:10].C1=C(O[C:21](=[CH:22]1)Br)C#N 10=20;20,21=21,22
[H:20][C:21]1([CH+:22]C=CS1)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=CS[C:21](=[CH:22]1)S(=O)(=O)O 10=20;20,21=21,22
CO[CH:20]([NH3+:21])[OH:10].[Cl-]>>CO[CH:20]=[OH+:10].[NH3:21].[Cl-] 10=20;20,21=21
[H:20][OH2+:21].COC1=C(C(=C(C=C1)OC)Br)C(O)[O:10]CCCO.C1CCOC1.[Cl-]>>[H:20][O+:10](CCCO)C(C1=C(C=CC(=C1Br)OC)OC)O.[OH2:21].C1CCOC1.[Cl-] 10=20;20,21=21
C[C:20](=[O:21])CCC1(C(=O)CCC1=O)C.C1CC([NH:10]C1)C(=O)O>>CC1(C(=O)CCC1=O)CC[C:20](C)([NH+:10]2CCCC2C(=O)O)[O-:21] 10=20;20,21=21
[H:20][O:21][S+:22](C)C.C1=CC=C(C=C1)[S-:10]>>[H:20][S:10]C1=CC=CC=C1.C[S:22](=[O:21])C 10=20;20,21=21,22
[H:20][C:21]1(C=CC=N[CH+:22]1)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=C[C:21](=[CH:22]N=C1)S(=O)(=O)O 10=20;20,21=21,22
[H:20][Br:21].CC1(CCCC1)[CH:11]=[CH2:10]>>[H:20][CH2:10][CH+:11]C1(CCCC1)C.[Br-:21] 10,11=10,20;20,21=21
C[O+](C)[Si:20](C)(C)C.CS(=O)(=O)[O-:10]>>C[O+](C)[Si-:20](C)(C)(C)[O:10]S(=O)(=O)C 10=20,
CC1=C(C=C2C3CCC(C(C3=O)(CC2=C1)C)[N:10]4CCCC4)OC.[CH3:20][I:21]>>CC1=C(C=C2C3CCC(C(C3=O)(CC2=C1)C)[N+:10]4(CCCC4)[CH3:20])OC.[I-:21] 10=20;20,21=21
[H:20][O:21]P(=O)(O)O.CC=CC[OH:10]>>[H:20][OH+:10]CC=CC.OP(=O)(O)[O-:21] 10=20;20,21=21
C[C+:20]=O.[CH:10]1=[CH:11]OC(=C1)[N+](=O)[O-]>>C[C:20](=O)[CH:10]1C=C(O[CH+:11]1)[N+](=O)[O-] 10,11=10,20
[H:20][N+:21]1=C(C2=C(N=C1)N(C(=O)N2)C3C(C(C(O3)CO)O)O)NCC4=CC(=C(C(=C4)Br)O)Br.[OH-:10].[Br-]>>[H:20][OH:10].C1=C(C=C(C(=C1Br)O)Br)CNC2=[N:21]C=NC3=C2NC(=O)N3C4C(C(C(O4)CO)O)O.[Br-] 10=20;20,21=21
CC[O:21][C:20](C)([O-:10])OC>>CC[O-:21].C[C:20](=[O:10])OC 10=20;20,21=21
[H:20][Br:21].C1=CC(=C(C=C1)N)CC=CC[O-:10]>>[H:20][O:10]CC=CCC1=C(C=CC=C1)N.[Br-:21] 10=20;20,21=21
CC(=O)O[C:20](=[O:21])C.C1=CC=C(C=C1)C(=O)NCC(=O)[O-:10].COC1=C(C(=CC=C1)O)C=O.C(=O)(O)O[K].[K+]>>CC(=O)O[C:20](C)([O-:21])[O:10]C(=O)CNC(=O)C1=CC=CC=C1.COC1=C(C(=CC=C1)O)C=O.C(=O)(O)O[K].[K+] 10=20;20,21=21
[H:20][O:21]C(=O)C.C1CC[NH+](C(C1)C(=O)O)C(CCC[N+](=O)[O-])[O-:10]>>[H:20][O:10]C(CCC[N+](=O)[O-])[NH+]1CCCCC1C(=O)O.CC(=O)[O-:21] 10=20;20,21=21
C1=CC2=C(C(=C(N=C2C=C1)Cl)[N+](=O)[O-])O[P:20]([O-:10])(Cl)(Cl)[Cl:21].CC[NH+](CC)CC>>C1=CC2=C(C(=C(N=C2C=C1)Cl)[N+](=O)[O-])O[P:20](=[O:10])(Cl)Cl.[Cl-:21].CC[NH+](CC)CC 10=20;20,21=21
[H:20][O:21]CC.[C-:10](Br)(Br)Br>>[H:20][C:10](Br)(Br)Br.CC[O-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.C1CCC(C1)([NH+]2CCCC2)[O-:10]>>[H:20][O:10]C1(CCCC1)[NH+]2CCCC2.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][O+:21](CC1=CC=CC=C1)C(C2CC(=O)C2)(O)O.C1=CC=C(C=C1)C[OH:10].CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH+:10]CC1=CC=CC=C1.C1C(CC1=O)C(O)(O)[O:21]CC2=CC=CC=C2.CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][CH:21](C(=O)OCC)[C:22](=[O:23])OCC.C[O:10][Na].CCOC(=O)C=CC1=CC=CC=C1.CCOC(=O)C#CC1=CC=CC=C1.CO>>[H:20][O+:10](C)[Na].CCO[C:22](=[CH:21]C(=O)OCC)[O-:23].CCOC(=O)C=CC1=CC=CC=C1.CCOC(=O)C#CC1=CC=CC=C1.CO 10=20;22,23=23;20,21=21,22
CCN1C(CC2(C1NC3=CC=CC=C32)C45CC(N(C4NC6=CC=CC=C56)CC)C=O)C[OH:10].CC(=O)O[I+:20]1(C2=C(C=CC=C2)C(=O)O1)OC(=O)C.CC(=O)O.CC(=O)[O-].CC(=O)OI1C2=C(C=CC=C2)C(=O)O1>>CCN1C(CC2(C1NC3=CC=CC=C32)C45CC(N(C4NC6=CC=CC=C56)CC)C=O)C[OH+:10][I:20]7(C8=C(C=CC=C8)C(=O)O7)(OC(=O)C)OC(=O)C.CC(=O)O.CC(=O)[O-].CC(=O)OI1C2=C(C=CC=C2)C(=O)O1 10=20,
[H:20][O+:21]=CCBr.[OH2:10]>>[H:20][OH2+:10].C(C=[O:21])Br 10=20;20,21=21
